US08258131B2
Preparation of 7-amino-4-(4-fluorophenyl)-2,2-dimethyl-2H-chromen-3-carboxamide
6N Hydrochloric acid (15 mL) was added to a solution of tert-butyl [3-cyano-4-(4-fluorophenyl)-2,2-dimethyl-2H-chromen-7-yl]carbamate (a compound obtained in Reference Example 8(3); 150 mg) in dioxane (5 mL) and the mixture was heated under reflux for 90 hours. The reaction solution was concentrated in vacuo, the resulted residue was diluted with ethyl acetate and washed with a saturated solution of sodium bicarbonate and brine. The organic layer was filtered through a column of porous diatomite (Chem Elut) and the filtrate was concentrated in vacuo. The resultant residue was purified by column chromatography on silica gel (Solvent: chloroform/methanol=100/0 to 95/5) to give the titled compound (26 mg) as a yellow powder.

reactant | Hydrochloric acid | 6N, 15 mL | Cl | ClH
reactant | tert-butyl [3-cyano-4-(4-fluorophenyl)-2,2-dimethyl-2H-chromen-7-yl]carbamate | C(#N)C=1C(OC2=CC(=CC=C2C1C1=CC=C(C=C1)F)NC(OC(C)(C)C)=O)(C)C | C23H23FN2O3
reactant | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 7-amino-4-(4-fluorophenyl)-2,2-dimethyl-2H-chromen-3-carboxamide | 26 mg | NC1=CC=C2C(=C(C(OC2=C1)(C)C)C(=O)N)C1=CC=C(C=C1)F | C18H17FN2O2
